US07838675B2
i) 4-chloro-2-[[(2,3-difluorophenyl)methyl]thio]-6-[(2S)-1,4-dioxaspiro[4.5]dec-2-ylmethoxy]-pyrimidine
The subtitle compound was prepared according to the procedure outlined in example 1 step iii) using (2S)-1,4-dioxaspiro[4.5]decane-2-methanol (0.46 g) and 4,6-Dichloro-2-[(2,3-difluorobenzyl)thio]pyrimidine (the product of example 1 step (ii) (0.75 g) in THF (8 mL) and 60% sodium hydride (39 mg) to give the subtitle compound as a pale yellow solid. Yield: 0.70 g.

reactant | (2S)-1,4-dioxaspiro[4.5]decane-2-methanol | 0.46 g | O1[C@H](COC12CCCCC2)CO | C9H16O3
reactant | 4,6-Dichloro-2-[(2,3-difluorobenzyl)thio]pyrimidine | ClC1=NC(=NC(=C1)Cl)SCC1=C(C(=CC=C1)F)F | C11H6Cl2F2N2S
reactant | sodium hydride | 39 mg | [H-].[Na+]
solvent | THF | 8 mL | C1CCOC1 | C4H8O
product | 4-chloro-2-[[(2,3-difluorophenyl)methyl]thio]-6-[(2S)-1,4-dioxaspiro[4.5]dec-2-ylmethoxy]-pyrimidine | ClC1=NC(=NC(=C1)OC[C@@H]1OC2(OC1)CCCCC2)SCC2=C(C(=CC=C2)F)F | C20H21ClF2N2O3S
